US09216980B2
Preparation of 9-Benzenesulfonyl-5-hydroxy-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (500 mg, 1.16 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (500 mg, 2.40 mmol) and [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) (200 mg, 0.25 mmol) in 2N aqueous potassium acetate (3.6 mL) and acetonitrile (7.2 mL) was heated under microwave irradiation at 140° C., for 30 minutes. The reaction mixture was allowed to cool to ambient temperature, 1M hydrochloric acid (7.5 mL) was added and the mixture was stirred at room temperature for 1 h. The resulting precipitate was collected by filtration, washed with acetonitrile (5 mL) and left to air dry to afford the title compound as a crude brown solid (500 mg, 99%). LCMS (Method G): RT=3.84 min, M+H+=431.

reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 1.16 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 2.40 mmol, 500 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | hydrochloric acid | 1M, 7.5 mL | Cl | ClH
solvent | potassium acetate | 2N, 3.6 mL | C(C)(=O)[O-].[K+]
solvent | acetonitrile | 7.2 mL | C(C)#N | C2H3N
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) | 0.25 mmol, 200 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 9-Benzenesulfonyl-5-hydroxy-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)C=2C=NN(C2)C | C21H14N6O3S
